US07205297B2
A 1-liter, 3-neck-round-bottom flask was equipped with an air stirrer, reflux condenser, and a nitrogen inlet. The 4-chloro-2-(dimethylaminomethyleneamino)-5-iodopyrimidine (65.2 g), ethanol (84 mL), and triethylamine (336 mL) were charged and heated to reflux. Copper (I) iodide (105 mg) and dichlorobis(triphenyl)phosphine palladium II (386 mg) were added. Neat 1-chloro-4-ethynylbenzene (30.1 g) was added and the mixture was refluxed approximately 2.5 hours. The mixture was cooled to ambient temperature, stirred for 1.5 hours and filtered. The filter cake was slurried in water:ethanol (4:1 v/v, 120 mL), filtered and dried in vacuo at 50° C. to give 4-chloro-5-(4-chlorophenylethynyl)-2-dimethylaminomethyleneaminopyrimidine as a yellow solid: 55.7 g m.p. 195–197° C.

reactant | 4-chloro-2-(dimethylaminomethyleneamino)-5-iodopyrimidine | 65.2 g | ClC1=NC(=NC=C1I)N=CN(C)C | C7H8ClIN4
reactant | ethanol | 84 mL | C(C)O | C2H6O
reactant | 1-chloro-4-ethynylbenzene | 30.1 g | ClC1=CC=C(C=C1)C#C | C8H5Cl
catalyst | Copper (I) iodide | 105 mg | [Cu]I
catalyst | dichlorobis(triphenylphosphine)palladium | 386 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | triethylamine | 336 mL | C(C)N(CC)CC | C6H15N
product | 4-chloro-5-(4-chlorophenylethynyl)-2-dimethylaminomethyleneaminopyrimidine | ClC1=NC(=NC=C1C#CC1=CC=C(C=C1)Cl)N=CN(C)C | C15H12Cl2N4
